US06552021B2
Pyrido [3,4-α]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide was prepared from pyrido[3,4-α]phenazine-11-carboxylic acid (II.2) and N,N-dimethylethylenediamine

reactant | pyrido[3,4-α]phenazine-11-carboxylic acid | C1=NC=CC=2C1=C1N=C3C(=CC=CC3=NC1=CC2)C(=O)O | C16H9N3O2
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
product | Pyrido [3,4-α]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=NC=C4)C | C20H19N5O
